US06127415
Synthesis of 3-methyl-2-oxa-1-adamantyl mesylate
A mixture of 230 mg (1.37 mmoles) of 3-methyl-2-oxa-1-adamantanol, 20 mg (0.163 mmoles) of 4-dimethyl-aminopyridine, and 350 mg (2.0 mmoles) of methanesulfonic anhydride is treated with 10 mL of dry pyridine under argon at -40° C. The reaction mixture is warmed to 0° C. and allowed to gradually warm to 25° C. over 13 hours. The solvent is removed in vacuo, and the residue dissolved in 20 mL dichloromethane, washed with 10 mL of water, dried over sodium sulfate, and stripped of solvent in vacuo, yielding 341 mg of crude (approximately 95% pure) product. TLC: Rf=0.75 (Silica: 50% hexanes, 50% ethyl acetate).

reactant | 3-methyl-2-oxa-1-adamantanol | 1.37 mmoles, 230 mg | CC12OC3(CC(CC(C1)C3)C2)O | C10H16O2
reactant | methanesulfonic anhydride | 2.0 mmoles, 350 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-methyl-2-oxa-1-adamantyl mesylate | S(C)(=O)(=O)OC12OC3(CC(CC(C1)C3)C2)C | C11H18O4S
